US06602884B2
c) Methyl (3RS,4RS)-4-[3-hydroxyimino-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl)-1-[2-(2-thienylthio)ethyl]piperidine-3-acetate
0.363 g of hydroxylamine hydrochloride was added in several portions to a mixture of 0.99 g of methyl (3RS,RS)-4-[3-oxo-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl)-1-[2-(2-thienylthio)ethyl]piperidine-3-acetate in 10-cm3 of pyridine, with stirring and under an inert atmosphere, and the resulting mixture was heated in the region of 60° C. for 16 hours. After cooling in the region of 20° C., the reaction mixture was concentrated to dryness under reduced pressure (8 kPa) at a temperature in the region of 55° C. The evaporation residue was taken up in 75-cm3 of ethyl acetate and 40-cm3 of distilled water. The organic phase was washed three times with 40-cm3 of distilled water and 40-cm3 of a saturated sodium chloride solution, dried over magnesium sulfate for 30 minutes, filtered and concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. 0.98 g of methyl (3RS,4RS)-4-[3-hydroxyimino-3-(fluoro-6-methoxyquinolin-4-yl)propyl)-1-[2-(2-thienylthio)ethyl]piperidine-3-acetate wereobtained in the form of a yellow gum.

reactant | hydroxylamine hydrochloride | 0.363 g | Cl.NO
reactant | methyl (3RS,RS)-4-[3-oxo-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl)-1-[2-(2-thienylthio)ethyl]piperidine-3-acetate | 0.99 g | O=C(CCC1C(CN(CC1)CCSC=1SC=CC1)CC(=O)OC)C1=C(C=NC2=CC=C(C=C12)OC)F | C27H31FN2O4S2
solvent | pyridine | 10-cm3 | N1=CC=CC=C1 | C5H5N
product | Methyl (3RS,4RS)-4-[3-hydroxyimino-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl)-1-[2-(2-thienylthio)ethyl]piperidine-3-acetate | ON=C(CCC1C(CN(CC1)CCSC=1SC=CC1)CC(=O)OC)C1=C(C=NC2=CC=C(C=C12)OC)F | C27H32FN3O4S2
